US08420684B2
Compound 43: 5-(2-Chloro-phenyl)-1-(3-imidazol-1-yl-propyl)-4-(2-thiophen-2-yl-ethylimino)-imidazolidin-2-one
3-Imidazol-1-yl-propylamine (1 mmol) and 2-Chlorobenzaldehyde (1 mmol) were combined in methanol (2 ml, dry). After 2 hours 2 ml of a solution of KOCN (KSCN) (2 mmol) and Pyridinehydrochloride (2 mmol) in MeOH is added was added. Finally 2-(2-Isocyano-ethyl)-thiophene (1 mmol) is added. The reaction was stirred at room temperature for 48 h. After evaporation of the solvent the residue was purified with chromatographic methods.

reactant | 3-Imidazol-1-yl-propylamine | 1 mmol | N1(C=NC=C1)CCCN | C6H11N3
reactant | 2-Chlorobenzaldehyde | 1 mmol | ClC1=C(C=O)C=CC=C1 | C7H5ClO
reactant | KOCN | 2 mmol | O([K])C#N
reactant | Pyridinehydrochloride | 2 mmol | Cl.N1=CC=CC=C1
reactant | 2-(2-Isocyano-ethyl)-thiophene | 1 mmol | [N+](#[C-])CCC=1SC=CC1 | C7H7NS
solvent | methanol | 2 ml | CO | CH4O
product | 5-(2-Chloro-phenyl)-1-(3-imidazol-1-yl-propyl)-4-(2-thiophen-2-yl-ethylimino)-imidazolidin-2-one | ClC1=C(C=CC=C1)C1C(NC(N1CCCN1C=NC=C1)=O)=NCCC=1SC=CC1 | C21H22ClN5OS
